US04587059
102 kg (approximately 400 moles) of 2,4-dicyanoglutaric acid diethyl ester (approximately 94%) were mixed with 20 kg of water in a 400 liter capacity stirrer-equipped vessel, followed by the addition of 8.5 kg (261 moles) of polyoxymethylene (92%). To adjust to a pH-value of from 4 to 6, 383 g of a 32% NaOH solution (corresponding to 3.08 moles) were added. The reaction was carried out with stirring at a temperature of from 80° C. to 130° C. under the pressure spontaneously built up in the closed vessel. The reaction time was 45 minutes. The added water and the water of reaction were distilled off in a steam jet vacuum. The resulting condensation product was then subjected to thermolysis for 120 minutes at a temperature of from 150° C. to 180° C. under a pressure of less than 1 bar. To prevent polymerization, SO2 gas was passed through the thermolysis reaction mixture and through the distillate in the following distillation step. Distillation of the crude product formed during thermolysis produced 48.6 kg (389 moles) of 2-cyanoacrylic acid ethyl ester. This yield was 51% by weight, based on the dicyanoglutarate used.

reactant | 2,4-dicyanoglutaric acid diethyl ester | approximately 400 moles, 102 kg | C(C)OC(C(CC(C(=O)OCC)C#N)C#N)=O | C11H14N2O4
reactant | polyoxymethylene | 261 moles, 8.5 kg | O(C[*:2])[*:1]
catalyst | NaOH | 3.08 moles | [OH-].[Na+]
solvent | water | O | H2O
solvent | water | 20 kg | O | H2O
product | 2-cyanoacrylic acid ethyl ester | 389 moles, 48.6 kg | C(C)OC(C(=C)C#N)=O | C6H7NO2
